US06416733B1
A flask was charged with 10% palladium on carbon (200 mg), ethanol (20 mL), and 1-benzyloxy-2-(4-fluorophenyl)-4-ethyl-5-[(4-aminobutyl)oxy]-benzene (500 mg). The flask was fitted with a balloon and pressurized with hydrogen to fully inflate the balloon. The reaction was stirred 3.5 hours, filtered through Celite, and the filtrate concentrated under vacuum to afford 4-ethyl-2-(4-fluorophenyl)-5-[(4-aminobutyl)oxy]phenol as a white powder (350 mg). HPLC showed that ˜25% starting material remained. It was not purified but carried directly into the next step. Mass Spec (EI), m/e=304.1 (M+H).

reactant | 1-benzyloxy-2-(4-fluorophenyl)-4-ethyl-5-[(4-aminobutyl)oxy]-benzene | 500 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCCCCN)CC)C1=CC=C(C=C1)F | C25H28FNO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-ethyl-2-(4-fluorophenyl)-5-[(4-aminobutyl)oxy]phenol | 350 mg | C(C)C1=CC(=C(C=C1OCCCCN)O)C1=CC=C(C=C1)F | C18H22FNO2
